US06861428B2
2) Preparation of 2-[2-(2-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-4-hydroxymethyl-2H-pyridazin-3-one
To a solution of 2-[2-(2-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one (480 mg, 1.20 mmol) in THF/methanol (2 mL/1 mL), cerium(III) chloride hexahydrate (425 mg, 1.20 mmol) was added at −15° C., followed by the addition of sodium borohydride (45 mg, 1.20 mmol). After stirred for 10 minutes, a saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, concentrated under reduced pressure, and then, purified by chromatography on a silica gel (hexane/ethyl acetate=2/1) to yield the title compound as a pale-yellow, syrupy substance (yield: 11.0%).

reactant | 2-[2-(2-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | 1.20 mmol, 480 mg | ClC1=C(C=CC=C1)CCN1N=C(C=C(C1=O)C(=O)OC)C1=CC(=C(C=C1)F)C | C21H18ClFN2O3
reactant | cerium(III) chloride hexahydrate | 1.20 mmol, 425 mg | O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | sodium borohydride | 1.20 mmol, 45 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF methanol | 2 mL | C1CCOC1.CO
product | 2-[2-(2-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-4-hydroxymethyl-2H-pyridazin-3-one | yield: 11.0% | ClC1=C(C=CC=C1)CCN1N=C(C=C(C1=O)CO)C1=CC(=C(C=C1)F)C | C20H18ClFN2O2
